US08912188B2
To a solution of methyl 3-(diethylamino)-2-(4-fluorophenyl)quinoxaline-6-carboxylate (95.0 mg, 0.27 mmol,) in methanol (20 mL) was added a solution of NaOH (20 mg, 0.50 mmol) in water (1 mL). The resulting solution was stirred overnight at room temperature and concentrated in vacuo. The residue was dissolved in water (5 mL) and adjusted to pH 5 with hydrochloric acid (1N). The solids were collected by filtration to afford 3-(diethylamino)-2-(4-fluorophenyl)quinoxaline-6-carboxylic acid as a yellow solid (50 mg, 55%).

reactant | methyl 3-(diethylamino)-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.27 mmol, 95.0 mg | C(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F)CC | C20H20FN3O2
reactant | NaOH | 0.50 mmol, 20 mg | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | 3-(diethylamino)-2-(4-fluorophenyl)quinoxaline-6-carboxylic acid | 50 mg, 55% | C(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=C(C=C1)F)CC | C19H18FN3O2
